US04421757
4-(4-Chloro-3-dimethylsulfamoylphenyl)-2-(4-propionyloxyphenylimino)-3-methyl-4-thiazoline
2 g (4.7 mmoles) of 4-(4-chloro-3-dimethylsulfamoylphenyl)-2-(4-hydroxyphenylimino)-3-methyl-4-thiazoline is suspended in 40 ml of dry chloroform. 0.4 g (4.7 mmoles) of propionyl chloride (dissolved in 10 ml of chloroform) and 1.4 g (18 mmoles) of pyridine are added in that order. A slightly exothermic reaction produces, temporarily, a solution from which a yellow solid precipitates. After stirring for 3 hours at room temperature, a further 0.4 ml of propionyl chloride is added. The resulting yellow solution is allowed to stand for 3 days at room temperature and then evaporated to dryness in vacuo, the residue is distributed between water and ethyl acetate, the organic phase is dried and evaporated and the residue is recrystallized from isopropanol. Colorless crystals of m.p. 155°-159° C.

reactant | 4-(4-chloro-3-dimethylsulfamoylphenyl)-2-(4-hydroxyphenylimino)-3-methyl-4-thiazoline | 4.7 mmoles, 2 g | ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=C(C=C1)O)C)S(N(C)C)(=O)=O | C18H18ClN3O3S2
reactant | propionyl chloride | 4.7 mmoles, 10 ml, 0.4 g | C(CC)(=O)Cl | C3H5ClO
reactant | pyridine | 18 mmoles, 1.4 g | N1=CC=CC=C1 | C5H5N
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-Chloro-3-dimethylsulfamoylphenyl)-2-(4-propionyloxyphenylimino)-3-methyl-4-thiazoline | ClC1=C(C=C(C=C1)C=1N(C(SC1)=NC1=CC=C(C=C1)OC(CC)=O)C)S(N(C)C)(=O)=O | C21H22ClN3O4S2
